Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Compazine
 
Attending: ___
 
Chief Complaint:
Stroke found on MRI
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram 

 
History of Present Illness:
___ is a ___ year old right handed woman with a history
of prior DVTs and positive anti-cardiolipin antibody who 
presents
to the ED after possible stroke was discovered on MRI.

To briefly review her history, she has rheumatoid arthritis and
has been known to have positive anti-cardiolipin antibodies for
some time (at least since ___ per review of her Atrius 
records).
In the absence of any thrombotic events, she was only ever
treated with Aspirin. However, she was found to have an upper
extremity DVT in ___, and again in ___. This prompted
initiation of Coumadin, which she remains on. She has never had
any history of stroke or arterial thrombus.

She returned from a trip to ___ on ___. Shortly after
returning home, she noticed the onset of visual obscurations,
which she describes as "like looking through a lava lamp". These
were present in both eyes but were more prominent in the right
eye. She also developed a retro-orbital headache. These symptoms
are not entirely abnormal for her migraines. She took Tylenol
(note that she cannot take NSAIDs as she is on Methotrexate), 
and
went to bed. She woke up at around 3am the next morning and
continued to have headache as well as visual changes and nausea.
She again took Tylenol but vomited shortly thereafter. Her
symptoms persisted into ___. At that point she called her
primary care doctor who prescribed her ___ as well as a one
time dose of Prednisone 40mg x1 for status migrainosus. These
helped her symptoms but did not entirely resolve them. At this
point she describes ongoing blurring and "fuzziness" of her
vision, more notable in the upper half of her field than the
lower. She was also seen by her ophthalmologist on ___ who 
did
not find any abnormalities. 

Due to persistent symptoms, her primary care doctor obtained an
MRI/MRA today, which showed a few small areas of ischemia. She
was subsequently referred to the ED. 

Currently, she continues to have a headache as well as blurring
primarily in the upper half of her visual fields, and more
prominent in the right eye. She denies any diplopia or vision
loss. She feels that these symptoms are not entirely different
from her prior migraines, though symptoms are usually not this
persistent. At no point did she have any facial droop, slurring
of her speech, dysphagia, diplopia, focal weakness or sensory
changes.

She also endorses left sided neck ache, but denies any prior
trauma or chiropractic manipulation. She endorses photophobia,
which is typical of her migraines. 

 
Past Medical History:
Deep veinous thrombosis x2
Anti-cardiolipin antibody
Rheumatoid arthritis
Retinal detachment
Migraine with visual aura   
 
Social History:
___
Family History:
Adopted, does not know her family history. Two children, ages ___
and ___, are healthy.   
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. Mild paraspinal
tenderness.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk, though right eye
constricts somewhat slower than left (reports this is chronic).
EOMI without nystagmus. Normal saccades. VFF to confrontation.
Visual acuity ___ bilaterally. Funduscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
___ 04:46PM BLOOD WBC-6.8 RBC-4.65 Hgb-14.8 Hct-43.0 MCV-93 
MCH-31.8 MCHC-34.4 RDW-13.2 RDWSD-44.3 Plt ___
___ 04:46PM BLOOD ___ PTT-49.2* ___
___ 04:46PM BLOOD Glucose-109* UreaN-6 Creat-0.6 Na-145 
K-4.2 Cl-101 HCO3-31 AnGap-13
___ 04:46PM BLOOD ALT-39 AST-25 AlkPhos-105 TotBili-0.4
___ 04:46PM BLOOD ALT-39 AST-25 AlkPhos-105 TotBili-0.4
___ 06:00AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.0
___ 05:30PM BLOOD %HbA1c-4.8 eAG-91
___ 04:46PM BLOOD Triglyc-112 HDL-70 CHOL/HD-2.6 LDLcalc-87
___ 01:44PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 01:44PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND

TEE:
No atrial septal defect or patent forament ovale identified by 
2D, Doppler or intravenous saline with maneuvers. Grossly normal 
biventricular systolic function. Mild tricuspid regurgitation.

CT-torso: negative for radiographic evidence of malignancy
 
Brief Hospital Course:
___ right-handed female with history of RA, retinal detachment 
OD, DVT (x2; ___ + ___ on Coumadin; H/O positive 
anti-cardiolipin antibody), and migraine with aura. She is 
presenting with mild visual blur (not typical of her aura) in 
the superior visual field ___, in the context of headache. MRI 
ordered by outpatient provider showing ___ small, ischemic infarct 
in the occipital cortex - which prompted this admission. 

#Neurology 
#Acute Ischemic Stroke 
-Patient admitted due to findings of an acute left occipital 
ischemic infarction on outpatient MRI. Included with the MRI was 
an MRA/MRV and both were normal. Her workup included a TEE 
(___) which reported which was unremarkable, no evidence of 
PFO/ASD. CT-torso did not show evidence of occult malignancy. 
Telemetry unremarkable during admission, plan to discharge with 
___ of hearts to be picked up during weekday. Laboratory 
studies were significant for LDL 87, and HgbA1c 4.8. Repeat 
hypercoagulability labs pending at time of discharge. The 
patient was evaluated by hematology - no further recommendations 
at this time other than slightly higher INR goal of 2.5-4.0. 
Rheumatology was contacted - recommended outpatient follow up, 
which is already scheduled.
Overall, the antiphospholipid syndrome seems to be the most 
likely explanation; despite extensive workup we could not 
identify any alternative explanation. 

#Migraine With Aura 
-Headache improved this admission, and was treated with Tylenol. 
Nausea was managed with Zofran. She should continue to follow up 
with her outpatient neurologist regarding long-term migraine 
treatment. 

#Rheumatology 
#Rheumatoid Arthritis 
-Stable this admission; home medications continued 
-Patient was nauseated with headache this admission, and she 
decided to skip her weekly dose of methotrexate on ___ which 
her rheumatologist instructed her to do if not feeling well. 

#Hematology 
#History of DVT (x2) and positive anti-cardiolipin Ab 
-On Coumadin at baseline with INR supratherapeutic on admission 
(4.0). Hematology consulted and recommended higher INR goal on 
discharge. Her anti-cardiolipin antibody was sent out, as well 
as beta-2-glycoprotein. 

=============================================
Transitional Issues 

[]Follow up with ___ clinic for INR monitoring as before, 
new goal 2.5-4.0 
[]PCP can follow up on anti-cardiolipin antibody and 
beta-2-glycoprotein 
[]Follow up with rheumatology as previously scheduled 

==============================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 87 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (patient at baseline functional 
status)
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 7.5 mg PO DAILY16 DVT x2  
2. Methotrexate 15 mg PO QWED rheumatoid arthritis  
3. Leucovorin Calcium 10 mg PO DAILY:PRN 12 hours after 
methotrexate 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Leucovorin Calcium 10 mg PO DAILY:PRN 12 hours after 
methotrexate  
2.  Methotrexate 15 mg PO QWED rheumatoid arthritis   
3.  Multivitamins 1 TAB PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5.  Warfarin 7.5 mg PO DAILY16 DVT x2   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke of the Left Occipital Cortex 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear ___,
  
 ___ were hospitalized due to symptoms of blurred vision 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. 
 
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:  
-History of clotting disorder with DVT's 
-Rheumatologic disease 
-Migraine with aura 

 We are changing your medications as follows:  
 The new target INR for Coumadin is 2.5-4.0. Please make sure to 
follow up with the ___ clinic the day after discharge/   

 Please take your other medications as prescribed, and continue 
to follow with your ___ clinic.  
 
 Please follow up with Neurology and your primary care physician 
as listed below. 

-Please follow up with your Atrius Neurologist in ___ months; 
call their office for an appointment 
-Please follow up with your primary care physician within one 
week; call their office for an appointment as well 
 
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  
 Your ___ Neurology Team
 
Followup Instructions:
___